US08247431B2
Step 2: Preparation of 5-tert-butoxycarbonylamino-2-chloro-isonicotinic acid
A solution of (6-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester (4.19 g) in diethyl ether (150 mL) was cooled to −78° C. and N,N,N′,N′-tetramethylethylendiamine (6.60 g) was added. After slow addition of n-butyl lithium solution (1.32 M in hexane, 41.6 mL) over a time period of 10 minutes, the mixture was allowed to warm up to −10° C., stirred at this temperature for 2 hours and then was re-cooled to −78° C. The mixture was poured slowly into a stirred mixture of crushed dry ice in THF and stirred for 30 minutes. The mixture was concentrated on a rotary evaporator and water was added to the residue. The aqueous layer was washed 2× with MTB-ether and acidified with 6N hydrochloric acid to pH ˜3. The formed precipitate was filtered off, washed with water, ethyl acetate and dried in vacuum to afford 2.46 g of the title compound of the formula

reactant | (6-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester | 4.19 g | C(C)(C)(C)OC(NC=1C=NC(=CC1)Cl)=O | C10H13ClN2O2
reactant | N,N,N′,N′-tetramethylethylendiamine | 6.60 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 1.32 M, 41.6 mL | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 5-tert-butoxycarbonylamino-2-chloro-isonicotinic acid | 2.46 g | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)Cl | C11H13ClN2O4
